### PR TITLE
[Merged by Bors] - feat: characteristic polynomials of linear families of endomorphisms

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+
+-/
+
+open scoped BigOperators Matrix
+
+section Basis
+
+variable {R M ι : Type*} [CommRing R] [AddCommGroup M] [Module R M] [Fintype ι] [DecidableEq ι]
+
+-- move to Mathlib.RingTheory.TensorProduct.Basic
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:49]: Is it possible to move it?

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 2]
```diff
@@ -0,0 +1,336 @@
...
+
+namespace LinearMap
+
+section basic
+
+variable [DecidableEq ιM] (b : Basis ι R L) (bₘ : Basis ιM R M)
+
+open Matrix
+
+/-- Let `L` and `M` be modules over `R`, and let `φ : L →ₗ[R] Module.End R M` be a linear map.
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:197]: Maybe mention that they are finite free?

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 3]
```diff
@@ -0,0 +1,336 @@
...
+Let `b` be a basis of `L` and `bₘ` a basis of `M`.
+Then `LinearMap.polyCharpoly φ b bₘ` is the polynomial that evaluates on elements `x` of `L`
+to the characteristic polynomial of `φ x` acting on `M`.
+
+This definition does not depend on the choice of `bₘ`
+(see `LinearMap.polyCharpoly_basisIndep`). -/
+noncomputable
+def polyCharpoly : Polynomial (MvPolynomial ι R) :=
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:205]: I wonder if it is useful to package `polyCharpoly φ b (Module.Free.chooseBasis R M)` into a new function so that the user won't need to obtain a basis before using this?

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 4]
```diff
@@ -1008,3 +1008,39 @@ def algEquivMatrix [Fintype n] (h : Basis n R M) : Module.End R M ≃ₐ[R] Matr
...
+/-- The standard basis of the endomorphism algebra of a module
+induced by a basis of the module.
+
+If `M` is a module with basis `b` indexed by a finite type `ι`,
+then `Basis.end b` is the basis of `Module.End R M` indexed by `ι × ι`
+where `(i, j)` indexes the linear map that sends `b j` to `b i`
+and sends all other basis vectors to `0`.  -/
+@[simps! repr_apply]
+noncomputable
+def _root_.Basis.end (b : Basis ι R M) : Basis (ι × ι) R (Module.End R M) :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:1025]: I think this makes it slightly clearer what the issue is:
```suggestion
def «end» (b : Basis ι R M) : Basis (ι × ι) R (Module.End R M) :=
```
though personally I'd advocate for just calling this `End`.

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 5]
```diff
@@ -1008,3 +1008,39 @@ def algEquivMatrix [Fintype n] (h : Basis n R M) : Module.End R M ≃ₐ[R] Matr
 #align alg_equiv_matrix algEquivMatrix
 
 end
+
+namespace Basis
+
+variable {R M ι : Type*} [CommRing R] [AddCommGroup M] [Module R M] [Fintype ι] [DecidableEq ι]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:1014]: Am I right in thinking that we don't have the basis for linear maps? If so, how about:
```suggestion
variable {R M ι : Type*} [CommRing R] [AddCommGroup M] [Module R M] [Fintype ι] [DecidableEq ι]
  {ι' M' : Type*} [AddCommGroup M'] [Module R M'] [Fintype ι'] [DecidableEq ι']

def linearMap (b : Basis ι R M) (b' : Basis ι' R M') : Basis (ι' × ι) R (M →ₗ[R] M') :=
  (Matrix.stdBasis R ι' ι).map (LinearMap.toMatrix b b').symm
```
and `end` below can be an `abbrev` or even maybe absent?

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 6]
```diff
@@ -1008,3 +1008,39 @@ def algEquivMatrix [Fintype n] (h : Basis n R M) : Module.End R M ≃ₐ[R] Matr
...
+If `M` is a module with basis `b` indexed by a finite type `ι`,
+then `Basis.end b` is the basis of `Module.End R M` indexed by `ι × ι`
+where `(i, j)` indexes the linear map that sends `b j` to `b i`
+and sends all other basis vectors to `0`.  -/
+@[simps! repr_apply]
+noncomputable
+def _root_.Basis.end (b : Basis ι R M) : Basis (ι × ι) R (Module.End R M) :=
+  (Matrix.stdBasis R ι ι).map (LinearMap.toMatrix b b).symm
+
+-- the left hand side simplifies, so this is a bad simp lemma
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:1028]:
```suggestion
```

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 7]
```diff
@@ -1126,6 +1126,49 @@ lemma toMatrix_baseChange (f : M₁ →ₗ[R] M₂) (b₁ : Basis ι R M₁) (b
...
+
+/-- The natural linear map $A ⊗ (\text{End}_R M) → \text{End}_A (A ⊗ M)$,
+where `M` is an `R`-module, and `A` an `R`-algebra.
+
+See `TensorProductEnd` for the same map, bundled as `A`-algebra homomorphism. -/
+@[simps!]
+noncomputable
+def TensorProductEndₗ : A ⊗[R] (End R M) →ₗ[A] End A (A ⊗[R] M) :=
+  TensorProduct.AlgebraTensorModule.lift <|
+  { toFun := fun a ↦ a • baseChangeHom R A M M
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1144]: How about we support `M →ₗ[R] N` and not just `Module.End R M`:
```suggestion
See `TensorProductEnd` for the case `N = M`, bundled as `A`-algebra homomorphism. -/
@[simps!]
noncomputable
def TensorProductₗ (N : Type*) [AddCommGroup N] [Module R N] :
    A ⊗[R] (M →ₗ[R] N) →ₗ[A] A ⊗[R] M →ₗ[A] A ⊗[R] N :=
  TensorProduct.AlgebraTensorModule.lift <|
  { toFun := fun a ↦ a • baseChangeHom R A M N
```

Comment (ocfnash) [reply Mathlib/RingTheory/TensorProduct/Basic.lean:1144]: (This could probably be a one-liner if `TensorProduct.AlgebraTensorModule.lift` was generalised to be a linear map rather than just a raw function, but I don't think we should tackle this as part of this work.)

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 8]
```diff
@@ -0,0 +1,336 @@
...
+Then we define a multivariate polynomial with variables indexed by `ι`
+that evaluates on elements `x` of `L` to the characteristic polynomial of `φ x`.
+
+## Main declarations
+
+* `Matrix.toMvPolynomial M i`: the family of multivariate polynomials that evaluates on `c : n → R`
+  to the dot product of the `i`-th row of `M` with `c`.
+* `LinearMap.toMvPolynomial b₁ b₂ f`: a version of `Matrix.toMvPolynomial` for linear maps `f`
+  with respect to bases `b₁` and `b₂` of the domain and codomain.
+`Matrix.toMvPolynomial M i` is the sum of the monomials `C (M i j) * X j`.
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:33]: This line looks like is has gone astray (I guess either drop it or move it up two lines and ident).

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean:49]: Agreed: we should move this (and generalise to `M →ₗ[R] N`).

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 9]
```diff
@@ -0,0 +1,336 @@
...
+* `LinearMap.polyCharpoly`: the multivariate polynomial that evaluates on elements `x` of `L`
+  to the characteristic polynomial of `φ x`.
+* `LinearMap.polyCharpoly_map`: the evaluation of `polyCharpoly` on elements `x` of `L`
+  is the characteristic polynomial of `φ x`.
+* `LinearMap.polyCharpoly_coeff_isHomogeneous`: the coefficients of `polyCharpoly`
+  are homogeneous polynomials in the parameters.
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:40]: I think a short `## Imlementation details` section would be useful here to outline the clever technique used to establish independence on choice of basis.

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean:205]: I agree with @erdOne . I would rename this to `polyCharpolyAux` and then once `polyCharpolyAux_basisIndep` has been proved, define a new `polyCharpoly` that invokes `Module.Free.chooseBasis R M`.

**Review by ocfnash — COMMENTED** [review]
This is really nice. I've left a few minor comments but I doubt I'll have much more to say once they've been addressed.

Thanks again for doing this, and also to @erdOne for helping with review.

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean]: Done

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean]: Done

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean:1025]: True, I considered it, but otoh didn't really like the french quotes. I don't think it is well-known to non-experts what they do. The current name follows a more widely used pattern.
Do you have a strong preference?

File: Mathlib/Data/MvPolynomial/Degrees.lean [hunk 10]
```diff
@@ -459,6 +459,14 @@ theorem totalDegree_monomial (s : σ →₀ ℕ) {c : R} (hc : c ≠ 0) :
   classical simp [totalDegree, support_monomial, if_neg hc]
 #align mv_polynomial.total_degree_monomial MvPolynomial.totalDegree_monomial
 
+theorem totalDegree_monomial_le (s : σ →₀ ℕ) (c : R) :
+    (monomial s c).totalDegree ≤ s.sum fun _ ↦ id := by
+  if hc : c = 0 then
+    simp only [hc, map_zero, totalDegree_zero, zero_le]
+  else
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Data/MvPolynomial/Degrees.lean]: Thanks

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean:1033]: No strong preference, let's leave this alone then!

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean (hunk 6 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean:1036]: I added this comment to explain why I do not let `simps` generate the lemma: the linter complains.

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 11]
```diff
@@ -1126,6 +1126,49 @@ lemma toMatrix_baseChange (f : M₁ →ₗ[R] M₂) (b₁ : Basis ι R M₁) (b
...
+        TensorProduct.AlgebraTensorModule.lift_apply, TensorProduct.lift.tmul, coe_restrictScalars,
+        coe_mk, AddHom.coe_mk, mul_smul, smul_apply, baseChangeHom_apply, baseChange_comp,
+        comp_apply, Algebra.mul_smul_comm, Algebra.smul_mul_assoc])
+    (by
+      apply LinearMap.ext
+      intro x
+      simp only [TensorProductEndₗ, TensorProduct.AlgebraTensorModule.lift_apply,
+        TensorProduct.lift.tmul, coe_restrictScalars, coe_mk, AddHom.coe_mk, one_smul,
+        baseChangeHom_apply, baseChange_eq_ltensor, one_apply]
+      erw [lTensor_id, LinearMap.id_apply])
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/RingTheory/TensorProduct/Basic.lean]: Done.

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Matrix/ToLin.lean]: Fixed. I opted to have the abbrev, and copy the tiny API. I think it aids discoverability and readability in applications.

File: Mathlib/RingTheory/TensorProduct/Basic.lean (hunk 7 above)
Comment (jcommelin) [reply Mathlib/RingTheory/TensorProduct/Basic.lean]: Thanks, I made the generalization. And yes, let's postpone that other refactor of `TensorProduct.AlgebraTensorModule.lift`.

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 9 above)
Comment (jcommelin) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean:40]: Done

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Algebra/Module/LinearMap/Polynomial.lean]: Done

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 12]
```diff
@@ -1095,16 +1095,35 @@ theorem basis_repr_symm_apply (a : A) (i : ι) :
...
 
+open LinearMap in
+lemma _root_.Basis.baseChange_end [Fintype ι] [DecidableEq ι]
+    (A : Type*) [CommSemiring A] [Algebra R A] (b : Basis ι R M) (ij : ι × ι) :
+    baseChange A (b.end ij) = (basis A b).end ij := by
+  apply (basis A b).ext
+  intro k
+  conv_lhs => simp only [basis_apply, baseChange_tmul]
+  simp_rw [Basis.end_apply_apply, basis_apply]
+  split <;> simp only [TensorProduct.tmul_zero]
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1111]:
```suggestion
open LinearMap in
lemma _root_.Basis.baseChange_linearMap [Fintype ι] [DecidableEq ι]
    {ι' N : Type*} [Fintype ι'] [DecidableEq ι'] [AddCommMonoid N] [Module R N]
    (A : Type*) [CommSemiring A] [Algebra R A] (b : Basis ι R M) (b' : Basis ι' R N) (ij : ι × ι') :
    baseChange A (b'.linearMap b ij) = (basis A b').linearMap (basis A b) ij := by
  apply (basis A b').ext
  intro k
  conv_lhs => simp only [basis_apply, baseChange_tmul]
  simp_rw [Basis.linearMap_apply_apply, basis_apply]
  split <;> simp only [TensorProduct.tmul_zero]

open LinearMap in
lemma _root_.Basis.baseChange_end [Fintype ι] [DecidableEq ι]
    (A : Type*) [CommSemiring A] [Algebra R A] (b : Basis ι R M) (ij : ι × ι) :
    baseChange A (b.end ij) = (basis A b).end ij :=
  b.baseChange_linearMap A b ij
```

Comment (ocfnash) [reply Mathlib/RingTheory/TensorProduct/Basic.lean:1111]: (maybe worth a `BaseChange` section to share variables and `open LinearMap`)

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 13]
```diff
@@ -1095,16 +1095,35 @@ theorem basis_repr_symm_apply (a : A) (i : ι) :
...
+    [CommSemiring A] [Algebra R A] :
+    Module.Free A (A ⊗[R] M) :=
+  Module.Free.of_basis <| Algebra.TensorProduct.basis A (Module.Free.chooseBasis R M)
+
+instance (R A M : Type*)
+    [CommRing R] [AddCommGroup M] [Module R M] [Module.Free R M] [Module.Finite R M]
+    [CommSemiring A] [Algebra R A] :
+    Module.Finite A (A ⊗[R] M) :=
+  Module.Finite.of_basis <| Algebra.TensorProduct.basis A (Module.Free.chooseBasis R M)
+
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1126]: We actually already have this (with slightly weaker assumptions) as [Module.Finite.base_change](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness.html#Module.Finite.base_change)
```suggestion
```

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 14]
```diff
@@ -1126,6 +1145,51 @@ lemma toMatrix_baseChange (f : M₁ →ₗ[R] M₂) (b₁ : Basis ι R M₁) (b
...
+variable (R A M N : Type*) [CommRing R] [CommRing A] [Algebra R A]
+variable [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+
+open Module
+open scoped TensorProduct
+
+/-- The natural linear map $A ⊗ \text{Hom}_R(M, N) → \text{Hom}_A (M_A, N_A)$,
+where $M_A$ and $N_A$ are the respective modules over $A$ obtained by extension of scalars.
+
+See `TensorProductEnd` for this map specialized to endomorphisms,
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1159]:
```suggestion
See `LinearMap.tensorProductEnd` for this map specialized to endomorphisms,
```

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 15]
```diff
@@ -0,0 +1,371 @@
...
+Let `b` be a basis of `L` and `bₘ` a basis of `M`.
+Then `LinearMap.polyCharpoly φ b` is the polynomial that evaluates on elements `x` of `L`
+to the characteristic polynomial of `φ x` acting on `M`. -/
+noncomputable
+def polyCharpoly : Polynomial (MvPolynomial ι R) :=
+  φ.polyCharpolyAux b (Module.Free.chooseBasis R M)
+
+lemma polyCharpoly_eq_polyCharpolyAux [DecidableEq ιM] (bₘ : Basis ιM R M) :
+    polyCharpoly φ b = φ.polyCharpolyAux b bₘ := by
+  rw [polyCharpoly, φ.polyCharpolyAux_basisIndep b (Module.Free.chooseBasis R M) bₘ]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:328]: I think we should regard `polyCharpolyAux` as a pure implementation detail and never expose it to the user so this lemma should probably be:
```suggestion
lemma polyCharpoly_eq_of_basis [DecidableEq ιM] (bₘ : Basis ιM R M) :
    polyCharpoly φ b =
    (charpoly.univ R ιM).map (MvPolynomial.bind₁ (φ.toMvPolynomial b bₘ.end)) := by
  rw [polyCharpoly, φ.polyCharpolyAux_basisIndep b (Module.Free.chooseBasis R M) bₘ,
    polyCharpolyAux]
```

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 16]
```diff
@@ -1095,16 +1095,35 @@ theorem basis_repr_symm_apply (a : A) (i : ι) :
...
+  apply (basis A b).ext
+  intro k
+  conv_lhs => simp only [basis_apply, baseChange_tmul]
+  simp_rw [Basis.end_apply_apply, basis_apply]
+  split <;> simp only [TensorProduct.tmul_zero]
+
 end Basis
 
+instance (R A M : Type*)
+    [CommSemiring R] [AddCommMonoid M] [Module R M] [Module.Free R M] [Module.Finite R M]
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1116]:
```suggestion
    [CommSemiring R] [AddCommMonoid M] [Module R M] [Module.Free R M]
```

**Review by ocfnash — APPROVED** [review]
Thanks so much for doing this. Awesome work!

A few last tiny suggestions.

bors d+

**Comment by ocfnash** [comment]
bors merge
